US05380739
To 40 ml of n-butyl alcohol was added 1.18 g of 7-azaindole, 0.88 g of dimethylamine hydrochloride and 0.33 g of paraformaldehyde, and the mixture refluxed for 30 minutes. The clear solution was then evaporated to dryness in vacuo, and 10 ml of 10% aqueous hydrochloric acid was added to the residue. The water layer was extracted with ether, and then made strongly basic with potassium carbonate. The resulting precipitate was filtered off, washed with ether and dried, yielding 1.42 g (81.1%) of 3-dimethylamino-7-azaindole, m.p. 144°-152° C.

reactant | 7-azaindole | 1.18 g | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | dimethylamine hydrochloride | 0.88 g | Cl.CNC
reactant | paraformaldehyde | 0.33 g | C=O | CH2O
solvent | n-butyl alcohol | 40 ml | C(CCC)O | C4H10O
product | 3-dimethylamino-7-azaindole | 1.42 g, 81.1% | CN(C1=CNC2=NC=CC=C12)C | C9H11N3
